US06043248
Preparation of 6-trifluoromethyl-2-(4-methoxy-phenylmethyl)thio-4-pyrimidinol (Cpd 265)
4-hydroxy-6-trifluoromethyl-2-pyrimidinethiol (Cpd #264; 4.90 g, 25.0 mmol) in ethanol (8 ml) is treated with 3.25 N NaOH (8 ml, 26.0 mmol) followed by 4-methoxybenzyl chloride (3.5 ml, 25.7 mmol). After refluxing for 1 hr, the reaction is diluted with water and filtered. The solid is recrystallized from ethanol: 4.63 g (14.6 mmol, 58%), mp 169-170° C.

reactant | 4-hydroxy-6-trifluoromethyl-2-pyrimidinethiol | 25.0 mmol, 4.90 g | OC1=NC(=NC(=C1)C(F)(F)F)S | C5H3F3N2OS
reactant | NaOH | 26.0 mmol, 3.25 N, 8 ml | [OH-].[Na+]
reactant | 4-methoxybenzyl chloride | 25.7 mmol, 3.5 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-trifluoromethyl-2-(4-methoxy-phenylmethyl)thio-4-pyrimidinol | FC(C1=CC(=NC(=N1)SCC1=CC=C(C=C1)OC)O)(F)F | C13H11F3N2O2S
